US04116677
A mixture of 2-(3,5-dimethylphenoxy)-butyric acid [849 g (4.1 moles)], 1075 ml toluene, and 8 ml dimethylformamide was heated to 60° C. in a 5-liter flask fitted with a gas inlet tube, a stirrer, a thermometer and a dry ice condenser. Phosgene, 472 g (4.8 moles), was passed into the solution at 60°-70° C. The mixture was then heated at 60°-70° C. for thirty minutes. The dry ice condenser was then replaced with a water-cooled condenser and the solution was purged with nitrogen to remove excess phosgene and HCl. After 2 hours, purging was discontinued and the solution was vacuum stripped to leave 2-(3,5-dimethylphenoxy)butyryl chloride, 931 g (101% yield), nD30 1.5050.

reactant | 2-(3,5-dimethylphenoxy)-butyric acid | 4.1 moles, 849 g | CC=1C=C(OC(C(=O)O)CC)C=C(C1)C | C12H16O3
reactant | toluene | 1075 ml | C1(=CC=CC=C1)C | C7H8
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | dry ice | C(=O)=O | CO2
solvent | water | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-(3,5-dimethylphenoxy)butyryl chloride | 101% yield | CC=1C=C(OC(C(=O)Cl)CC)C=C(C1)C | C12H15ClO2
